US04644062
10 g of crystalline 5-benzyloxy-3-ethoxycarbonyl-4-methoxymethyl-1,2,3,4-tetrahydro-β-carboline-1-carboxylic acid is heated to boiling for 1 hour in 200 ml of xylene and the xylene is distilled off to dryness in vacuum. (decarboxylation) After crystallization from ethyl acetate, the residue yields 8.83 g of 5-benzyloxy-4-methoxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid ethyl ester with a melting point of 170°-171° C. (98.2% of theory).

reactant | 5-benzyloxy-3-ethoxycarbonyl-4-methoxymethyl-1,2,3,4-tetrahydro-β-carboline-1-carboxylic acid | 10 g | C(C1=CC=CC=C1)OC1=C2C=3C(C(NC(C3NC2=CC=C1)C(=O)O)C(=O)OCC)COC | C24H26N2O6
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-benzyloxy-4-methoxymethyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid ethyl ester | 8.83 g | C(C)OC(=O)C1NCC=2NC3=CC=CC(=C3C2C1COC)OCC1=CC=CC=C1 | C23H26N2O4
